US07060697B2
To a solution of dithiocarbonic acid O-ethyl ester S-(2-trifluoromethyl-biphenyl-4-yl) ester (128 mg, 0.3738 mmol) in EtOH (5 mL) is added aqueous NaOH (1 N, 5 mL). The mixture is heated at 65° C. for 3 h. After cooling to room temperature, 1 N HCl (aq) is added until the reaction pH is adjusted to ca. pH=5. The reaction is diluted with EtOAc and washed with H2O followed by saturated aqueous NaCl. The organic solution is dried over Na2SO4. After concentration, the crude 2-trifluoromethyl-biphenyl-4-thiol product obtained (64 mg, 0.2519 mmol) is dissolved in EtOH (5 mL). NaBH4 (19 mg, 0.5039 mmol, 2 eq.) is added to this solution. The resulting mixture is stirred at room temperature for 25 min at which point methyl-4-(bromomethyl)benzoate (58 mg, 0.2519 mmol, 1 eq.) in DMF (1.5 mL) is added to the reaction. The mixture is stirred at room temperature an additional 30 min. The EtOH is removed under vacuum. The resulting DMF solution is diluted with EtOAc and washed with H2O followed by saturated aqueous NaCl. The organic solution is dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (3:1 hexanes/EtOAc) to give 4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzoic acid methyl ester. [MS: (ES+) 425.1 (M+23)+].

reactant | dithiocarbonic acid O-ethyl ester S-(2-trifluoromethyl-biphenyl-4-yl) ester | 0.3738 mmol, 128 mg | FC(C1=C(C=CC(=C1)SC(OCC)=S)C1=CC=CC=C1)(F)F | C16H13F3OS2
reactant | NaOH | 1 N, 5 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | NaBH4 | 0.5039 mmol, 19 mg, 2 eq. | [BH4-].[Na+]
reactant | methyl-4-(bromomethyl)benzoate | 0.2519 mmol, 58 mg, 1 eq. | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CSC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C22H17F3O2S
